US07285550B2
(b) 2-Furan-2-yl-5-(4-pyridin-2-ylmethyl-piperazin-1-yl)-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine
2-Furan-2-yl-5-piperazin-1-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine (0.15 mmol) was dissolved in 4 mL of CH2Cl2 along with 2 eq. of pyridine-2-carbaldehyde and 25 mL of glacial acetic acid. The reaction mixture was stirred at room temperature for 30 minutes and sodium triacetoxyborohydride (4 eq.) was added in a single portion. The resulting reaction mixture was then stirred at room temperature for 18 hours. It was then concentrated under a stream of N2 and purified by preparative HPLC using a mixture of aqueous CH3CN that has been buffered with 0.1% TFA. 1H NMR (DMSO-d6) δ 8.52 (d, J=6.0 Hz, 1H), 7.64-7.60 (m, 1H), 7.50-7.19 (m, 4H), 6.84 (dd, J=3.6 Hz, 1.0 Hz, 1H), 4.09-4.06 (m, 4H), 3.89 (br s, 2H), 2.51-2.41 (m, 4H) ppm. MS: m/z: 378 [M+H]+.

reactant | 2-Furan-2-yl-5-piperazin-1-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | 0.15 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)N2CCNCC2)=N1 | C12H14N8O
reactant | pyridine-2-carbaldehyde | 2 eq. | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 4 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 2-Furan-2-yl-5-(4-pyridin-2-ylmethyl-piperazin-1-yl)-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)N2CCN(CC2)CC2=NC=CC=C2)=N1 | C18H19N9O
